US06372762B1
5-(2-Cyano-phenyl)-3,3a,4,6a-tetrahydro-1H-pentalen-2-one, ethylene ketal (0.25 g, 0.935 mmol) and powdered potassium hydroxide (0.5 g, 8.9 mmol) in t-butanol (5 mL0 were refluxed for 2 hours. After concentration, the reaction was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulfate and concentrated to give 0.296 g (111%) 2-(5-oxo-octahydro-pentalen-2-yl)-benzamide, ethylene ketal as light yellow oil which solidified upon standing. A portion was triturated with hexanes to give a dull yellow solid which had the following properties: mp 111-1 12.5° C.; NMR (CDCl3) δ 7.66 (dd, J1=7.5 Hz, J2=1.5 Hz, 1H), 7.36-7.18 (m, 3H), 6.56 (br s, 2H),5.71 (t, J=2.1 Hz, 1H), 3.88-3.82 (m, 4H), 3.44-3.33 (m, 1H), 3.03-2.87 (m, 2H), 2.63-2.49 (m, 1H), 2.11-1.93 (m, 2H), 1.78-1.67 (m, 2H); 13C NMR (CDCl3) δ 171.65, 141.48, 136.24, 134.20, 133.69, 130.33, 129.10, 128.96, 127.33, 118.19, 64.43, 64.11, 49.78, 43.68, 42.80, 39.83, 39.19; IR(KBr) 3386, 3171, 2967, 2940, 2897, 1666, 1387, 1325, 1111, 781, 771, 631; Anal. calculated for C17H13NO3: C, 71.56; H, 6.71; N, 4.91. Found: C, 71.39; H, 6.85; N, 4.92.

reactant | 5-(2-Cyano-phenyl)-3,3a,4,6a-tetrahydro-1H-pentalen-2-one | C(#N)C1=C(C=CC=C1)C=1CC2CC(CC2C1)=O | C15H13NO
reactant | potassium hydroxide | 8.9 mmol, 0.5 g | [OH-].[K+]
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 2-(5-oxo-octahydro-pentalen-2-yl)-benzamide | 0.296 g, 111% | O=C1CC2CC(CC2C1)C1=C(C(=O)N)C=CC=C1 | C15H17NO2
